US05691323
To a stirred solution of 2-(1-hydroxyethyl)pyrazine (0.859 g) and diphenylphosphoryl azide (2.48 g) in dry toluene (12 mL) at 0° C., under argon, was added 1,8-diazabicyclo[5.4.0]undec-7-ene (1.35 mL) dropwise. The resulting mixture was allowed to warm slowly to room temperature and stirred for 22 h then quenched with water (8 mL). The organic layer was removed and the aqueous phase extracted with 10 mL ethyl acetate. The combined extracts were concentrated, and the crude product was purified by flash column chromatography, eluting with hexane; 25% ethyl acetate to give 2-(1-azidoethyl)pyrazine (0.88 g) as a colorless oil.

reactant | 2-(1-hydroxyethyl)pyrazine | 0.859 g | OC(C)C1=NC=CN=C1 | C6H8N2O
reactant | diphenylphosphoryl azide | 2.48 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.35 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-azidoethyl)pyrazine | 0.88 g | N(=[N+]=[N-])C(C)C1=NC=CN=C1 | C6H7N5
